US06117884
8-Chlorolepidine
Commercially available 2-chloroaniline (200 g, 1.56 mol) was dissolved in 600 ml ethanol, and dry HCl gas was bubbled through for 10 minutes to give 2-chloroaniline hydrochloride. A new flask was charged with 2-chloroaniline hydrochloride (130 g, 0.793 mol), ferric chloride hexahydrate (25.7 g, 0.095 mol), anhydrous zinc chloride (10.9 g, 0.0799 mol) and 500 ml 2B ethanol. The mixture was heated to 60° C. for 10 minutes and 1,3,3-trimethoxy butane was added dropwise over a period of one hour. The mixture was then refluxed for two hours and allowed to stand overnight at room temperature. Most of the alcohol was removed by distillation and the residue was made alkaline with 25% sodium hydroxide solution. The reaction was cooled, filtered, and the filter pad washed with toluene. The toluene was concentrated to dryness. The product was recrystallized from dichloromethane/pentane to obtained a spectroscopically pure sample (mp: 110° C., 37.0 g, 25% overall yield).

reactant | 2-chloroaniline hydrochloride | 0.793 mol, 130 g | Cl.ClC1=C(N)C=CC=C1
reactant | 1,3,3-trimethoxy butane | COCCC(C)(OC)OC | C7H16O3
catalyst | zinc chloride | 0.0799 mol, 10.9 g | [Cl-].[Zn+2].[Cl-]
solvent | ethanol | C(C)O | C2H6O
product | 8-Chlorolepidine | ClC=1C=CC=C2C(=CC=NC12)C | C10H8ClN
